US04416884
25 g of ethyl ethoxymethylenemalonate was added to 21 g of 5-chloro-2-methyl-1,2,3,4-tetrahydroquinoline and the mixture was heated on an oil bath at 110° to 120° C. during which time distillation of ethanol was observed. After heating the mixture at the same temperature as above for 30 minutes 160 g of polyphosphoric acid prepared from 80 g of phosphoric acid and 80 g of phosphorus pentoxide was added thereto followed by heating on an oil bath at 130° to 140° C. for 1 hour. After completion of the reaction the reaction mixture was poured into 600 ml of water and the resulting mixture was rendered neutral with a 10% aqueous sodium hydroxide solution to precipitate crystals, which were collected by filtration and mixed with 200 ml of a 10% aqueous sodium hydroxide solution and the mixture was heat-refluxed for 1 hour during which time the crystals were dissolved to form a uniform solution. The solution was treated with activated carbon while hot and filtered. The filtrate was allowed to cool and pH was adjusted with concentrated hydrochloric acid to a pH of 2 to precipitate crystals. Recrystallization of the crude crystals thus-obtained from dimethylformamide gave 22 g of 8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid as colorless rhombic crystals having a melting point of 290° to 291° C.

reactant | ethyl ethoxymethylenemalonate | 25 g | C(C)OC=C(C(=O)OCC)C(=O)[O-]
reactant | 5-chloro-2-methyl-1,2,3,4-tetrahydroquinoline | 21 g | ClC1=C2CCC(NC2=CC=C1)C | C10H12ClN
reactant | phosphoric acid | 80 g | P(O)(O)(O)=O | H3O4P
reactant | phosphorus pentoxide | 80 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 600 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid | 22 g | ClC1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C14H12ClNO3
